US08283354B2
To 3-hydroxymethyl-4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazine-1-carboxylic acid benzyl ester (200 mg, 0.41 mmol) in 1.7 mL of methanol was added 39 mg of Pd/C (10% wt Pd on carbon). The reaction mixture was stirred under a hydrogen atmosphere for 3 h. The mixture was filtered through Celite, and the solvent was removed to give 2-[4-(2-hydroxymethyl-piperazin-1-yl)-7-methyl-quinazolin-2-yl]-phenol. LCMS: m/z 351.2 (M+H)+ at 2.11 min (10%-99% CH3CN/H2O).

reactant | 3-hydroxymethyl-4-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-piperazine-1-carboxylic acid benzyl ester | 0.41 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CO | C28H28N4O4
solvent | methanol | 1.7 mL | CO | CH4O
catalyst | Pd/C | 39 mg | [Pd] | Pd
product | 2-[4-(2-hydroxymethyl-piperazin-1-yl)-7-methyl-quinazolin-2-yl]-phenol | OCC1N(CCNC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O2
